US03931205
A solution of 2 g of aluminum isopropoxide in 30 ml of isopropyl alcohol is added dropwise to a solution of 2.7 g of 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid in 100 ml of isopropyl alcohol with stirring. The addition is accompanied by immediate formation of white crystals. The mixture is stirred under reflux for 1 hour, and 20 ml of water is added to the reaction mixture, and then the whole mixture is refluxed for an additional hour. After cooling, the crystals are filtered off, washed with isopropyl alcohol, and dried to give aluminum 2-(5-oxo-5H-[1]-benzopyrano[2,3-b]pyridin-7-yl)propionate as white crystals melting at above 250°C.

reactant | aluminum isopropoxide | 2 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid | 2.7 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(C(=O)O)C | C15H11NO4
reactant | water | 20 ml | O | H2O
solvent | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | aluminum 2-(5-oxo-5H-[1]-benzopyrano[2,3-b]pyridin-7-yl)propionate | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(C(=O)[O-])C.[Al+3].O=C2C3=C(OC1=NC=CC=C12)C=CC(=C3)C(C(=O)[O-])C.O=C3C1=C(OC2=NC=CC=C23)C=CC(=C1)C(C(=O)[O-])C | InChI=1S/3C15H11NO4.Al/c3*1-8(15(18)19)9-4-5-12-11(7-9)13(17)10-3-2-6-16-14(10)20-12;/h3*2-8H,1H3,(H,18,19);/q;;;+3/p-3
